US07105507B2
(RS)-α-Methyl-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)benzeneacetamide
Prepared from (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 4) and 4-oxo-1-phenylcyclohexylamine hydrochloride (Description 18) according to the method of Example 1. 1H NMR (400 MHz, CDCl3) δ 7.80 (1H, s), 7.72 (2H, s), 7.29 (5H, m), 5.71 (1H, s), 3.70 (1H, q, J 7.0 Hz), 2.81 (1H, m), 2.64 (1H, m), 2.47–2.04 (5H, m), 1.60 (1H, m), and 1.52 (3H, d, J 7.0 Hz).

reactant | (RS)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid | CC(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6O2
reactant | 4-oxo-1-phenylcyclohexylamine hydrochloride | Cl.O=C1CCC(CC1)(C1=CC=CC=C1)N
product | (RS)-α-Methyl-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)benzeneacetamide | CC(C(=O)NC1(CCC(CC1)=O)C1=CC=CC=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H21F6NO2
